US07524847B2
1-Allyl-3-benzyl-4-chloro-1,3-dihydroimidazo[4.5-c]pyridin-2-one
Potassium carbonate (0.76 g) and benzylbromide (0.94 g) were added to a solution of 1-allyl-4-chloro-1,3-dihydroimidazo[4.5-c]pyridin-2-one (1.05 g) in N,N-dimethylformamide (50 mL). This was stirred at room temperature for 14 hours. Water (300 mL) and ethyl acetate (300 mL) were added, and the organic layer was washed three times with 100 mL of water and then once with 100 mL of saturated aqueous sodium chloride solution, then was dried over magnesium sulfate, and concentrated under reduced pressure to give the title compound (1.57 g).

reactant | Potassium carbonate | 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 0.94 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-allyl-4-chloro-1,3-dihydroimidazo[4.5-c]pyridin-2-one | 1.05 g | C(C=C)N1C(NC=2C(=NC=CC21)Cl)=O | C9H8ClN3O
reactant | Water | 300 mL | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 1-Allyl-3-benzyl-4-chloro-1,3-dihydroimidazo[4.5-c]pyridin-2-one | 1.57 g | C(C=C)N1C(N(C=2C(=NC=CC21)Cl)CC2=CC=CC=C2)=O | C16H14ClN3O
